US07612210B2
A solution of (2R)-2-(1-hydroxycyclohexyl)-2-(4-methoxyphenyl)-N,N-dimethylacetamide (135 mg, 0.46 mmol) in dry tetrahydrofuran (1 mL) was treated with a solution of borane (1.0 M in tetrahydrofuran, 1.02 mL, 1.02 mmol). The reaction was heated at 75° C. for 1.5 h, and was cooled to 0° C. and treated dropwise with a 2N aqueous solution of hydrochloric acid. The reaction was then heated at 75° C for 20 minutes, the reaction was cooled, and the tetrahydrofuran was removed in vacuo. The resulting residue was diluted with water (3 mL) and was washed with ethyl acetate (6 mL). The aqueous layer was then basified to pH=10 with a 2N aqueous solution of sodium hydroxide, and the product was extracted with methylene chloride (3×15 mL). The combined organic extracts were dried over magnesium sulfate and concentrated in vacuo to yield (1S)-1-[2-dimethylamino-1-(4-methoxyphenyl)ethyl]cyclohexanol as a colorless oil. The oil was dissolved in methanol (0.5 mL) and was treated with a saturated methanolic solution of hydrochloric acid followed by enough diethyl ether to cause crystallization to yield 127 mg (88%) S-1-[2-(dimethylamino)-1-(4-methoxyphenyl)ethyl]cyclohexanol hydrochloride as a white solid. MS (ESI) m/z 278; [α]D25=−1.0° (c=0.010 g/mL, EtOH) (Yardley, John P.; Husbands, G. E. Morris; Stack, Gary; Butch, Jacqueline; Bicksler, James; Moyer, John A.; Muth, Eric A.; Andree, Terrance; Fletcher, Horace, III, et. al. J. Med. Chem. 1990, 33(10), 2899-905( [α]D25==−4°, c=0.095 g/mL, EtOH); enantiomeric excess >99%. The enantiomeric purity was determined, compared to the racemate, under the following Supercritical Fluid Chromatography conditions using Analytical Supercritical Fluid Chromatography (Berger Instruments, Inc. Newark, Del. USA):

reactant | (2R)-2-(1-hydroxycyclohexyl)-2-(4-methoxyphenyl)-N,N-dimethylacetamide | 0.46 mmol, 135 mg | OC1(CCCCC1)[C@H](C(=O)N(C)C)C1=CC=C(C=C1)OC | C17H25NO3
reactant | borane | 1.02 mmol, 1.0 M, 1.02 mL | B | BH3
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | (1S)-1-[2-dimethylamino-1-(4-methoxyphenyl)ethyl]cyclohexanol | CN(C[C@H](C1=CC=C(C=C1)OC)C1(CCCCC1)O)C | C17H27NO2
